US04129556
55.0 g of a bisazomethine prepared from 2 mols of salicylaldehyde and 1 mol of 2,5-diamino-2,5-dimethylhexane and with a melting point of 111°-112° C. are hydrogenated for 2 hours in 250 ml of ethanol in an autoclave in the presence of 5.5 g of Raney nickel at 100° C. and under a pressure of 80 atmospheres. The catalyst is filtered off and the filtrate is concentrated. The residue is recrystallised from 220 ml of ispropanol, collected by filtration, washed with n-hexane and dried in vacuo, affording 18.9 g (34% of theory) of N,N'-bis-(2-hydroxybenzyl)-2,5-diamino-2,5-dimethyl-hexane with a melting point of 102°-106° C. Two recrystallisations from a mixture of cyclohexane and ethanol yield 15.2 g of pure product with a melting point of 124°-125° C.

reactant | salicylaldehyde | 2 mols | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2,5-diamino-2,5-dimethylhexane | 1 mol | NC(C)(CCC(C)(C)N)C | C8H20N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Raney nickel | 5.5 g | [Ni] | Ni
product | N,N'-bis-(2-hydroxybenzyl)-2,5-diamino-2,5-dimethyl-hexane | 18.9 g, 34% | OC1=C(CNC(C)(CCC(C)(C)NCC2=C(C=CC=C2)O)C)C=CC=C1 | C22H32N2O2
